US06284748B1
Adenine (1 mmol) in DMF was treated with sodium hydride (1.2 mmol) followed by benzyl bromide (1.2 mmol) at room temperature under nitrogen. The resulting mixture was warmed at 100° C. for 2 h. The cooled reaction mixture was evaporated to dryness. Extraction and chromatography afforded N9-benzyladenine.

reactant | Adenine | 1 mmol | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | sodium hydride | 1.2 mmol | [H-].[Na+]
reactant | benzyl bromide | 1.2 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | N9-benzyladenine | C(C1=CC=CC=C1)N1C2=NC=NC(=C2N=C1)N | C12H11N5
